US06239142B1
N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(3-pyridinylmethyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
1,4-Diethylazodicarboxylate (205 gL) is added to a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide (418 mg) from Example No. 41, triphenylphospine (341 mg), and 3-pyridylmethanol (243 μL) in THF (10 mL). The reaction mixture is stirred at room temperature for 20 h and then the resulting suspension is filtered. The crude product is purified by recrystallization from ethanol to afford 63 mg (12%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide | 418 mg | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CN3CCOCC3)O)C=C1 | C20H20ClN3O3S
reactant | triphenylphospine | 341 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-pyridylmethanol | 243 μL | N1=CC(=CC=C1)CO | C6H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(3-pyridinylmethyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 63 mg, 12% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC=2C=NC=CC2)SC(=C3)CN3CCOCC3)=O)C=C1 | C26H25ClN4O3S
